US09315521B2
The title compound was prepared by following the procedure described for Example 55 from 6-chloropyridine-3-carbaldehyde to provide (6-chloropyridin-3-yl)methanol, which was converted to 5-(bromomethyl)-2-chloropyridine. The reaction of 6-methyl-2-sulfanylpyrimidin-4-ol with 5-(bromomethyl)-2-chloropyridine provided 2-{[(6-chloropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (0.82 g, 62% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.17 (s, 3H), 4.33 (s, 2H), 5.99 (bs, 1H), 7.46 (d, J=8.3 Hz, 1H), 7.90 (d, J=8.3 Hz, 1H), 8.45 (s, 1H), 9.30 (s, 1H); M+268.2.

reactant | 5-(bromomethyl)-2-chloropyridine | BrCC=1C=CC(=NC1)Cl | C6H5BrClN
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 2-{[(6-chloropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 0.82 g, 62% yield | ClC1=CC=C(C=N1)CSC1=NC(=CC(=N1)O)C | C11H10ClN3OS
